* UNIT-FIXED copy of envelope_det.spice (bare microns -> explicit u suffix)
* VibroSense Block 04: Envelope Detector v2 — SKY130A (Transistor-Level)
* Precision half-wave rectifier (dual ota_pga_v2 in feedback) + Gm-C LPF
* NO behavioral models — all real SKY130 MOSFETs + verified two-stage Miller OTA
*
* Architecture:
*   Stage 1: Dual-OTA precision rectifier using ota_pga_v2 (>75dB gain).
*     OTA1 (inp=vin, inn=rect) + PMOS: forces rect = vin when vin > rect
*     OTA2 (inp=vcm, inn=rect) + PMOS: clamps rect = vcm when vin < vcm
*     NMOS sink (S=vcm, G=VDD): zero-current discharge at rect=vcm,
*     proportional for rect>vcm. No resistor = no feedback instability.
*   Stage 2: 5T OTA + 5nF cap for Gm-C LPF (fc ~ 92 Hz)
*
* Requires: .option scale=1e-6 in testbench
*           .include "ota_pga_v2.spice"

* ============================================================
* SUB-BLOCK 1: Precision Half-Wave Rectifier (dual OTA feedback)
* ============================================================

.subckt rectifier_v2 vin vcm rect vdd gnd vbn

* OTA1: positive-half follower (rect tracks vin when vin > vcm)
Xota1 vdd gnd vin rect oa1 vbn gnd vdd vdd ota_pga_v2

* OTA2: clamp to vcm during negative half
Xota2 vdd gnd vcm rect oa2 vbn gnd vdd vdd ota_pga_v2

* PMOS output transistors
XMph1 rect oa1 vdd vdd sky130_fd_pr__pfet_01v8 w=2u l=1u
XMph2 rect oa2 vdd vdd sky130_fd_pr__pfet_01v8 w=2u l=1u

* NMOS discharge to vcm: source=vcm, gate=VDD, drain=rect
* In triode (small Vds): I proportional to (rect-vcm)
* At rect=vcm: Vds=0, I=0 → no undershoot below vcm
* Effective R ~ 6.85M → tau = 8.9us with 1.3pF parasitic
XMsink rect vdd vcm gnd sky130_fd_pr__nfet_01v8 w=0.42u l=100u

.ends rectifier_v2

* ============================================================
* SUB-BLOCK 2: Gm-C Low-Pass Filter (fc ~ 9 Hz)
* ============================================================

.subckt lpf_10hz vin vout vdd gnd vbn_lpf

* 5T OTA follower: fc = gm/(2*pi*C)
* At 100nA tail: gm ~ 2.9uS, C = 5nF → fc ~ 92 Hz
* CHANGED: C reduced 10x (50nF -> 5nF) for faster settling (~8ms vs ~85ms)
* Tradeoff: more ripple but envelopes differentiate within 50ms sim window
XM1    d1   vin   tail gnd sky130_fd_pr__nfet_01v8 w=2u l=4u
XM2    vout vout  tail gnd sky130_fd_pr__nfet_01v8 w=2u l=4u
XMtail tail vbn_lpf gnd gnd sky130_fd_pr__nfet_01v8 w=1u l=8u

XMp3   d1   d1   vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=4u
XMp4   vout d1   vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=4u

Clpf vout gnd 5n

.ends lpf_10hz

* ============================================================
* TOP-LEVEL: Envelope Detector
* ============================================================

.subckt envelope_det vin vcm vout vdd gnd vbn vbn_lpf

Xrect vin vcm rect vdd gnd vbn rectifier_v2
Xlpf  rect vout vdd gnd vbn_lpf lpf_10hz

.ends envelope_det
